US05089504
A solution of 3-butyryl-4-chloro-8-(4-methoxybenzoyloxymethyl)-quinoline 3.3 g, 8.3 mmol) and 2-methylaniline (1.33 ml, 12.4 mmol) in 1,4-dioxan (30 ml) was heated at reflux for 2 hours, then the dioxan evaporated and the product converted to free base. Recyrstallization from ethanol gave 3-butyryl-4-(2-methylphenylamino-8-(4-methoxybenzoyloxymethyl)-quinoline (3.5 g, 90%), m.p. 135°-137°.

reactant | 3-butyryl-4-chloro-8-(4-methoxybenzoyloxymethyl)-quinoline | 8.3 mmol, 3.3 g | C(CCC)(=O)C=1C=NC2=C(C=CC=C2C1Cl)COC(C1=CC=C(C=C1)OC)=O | C22H20ClNO4
reactant | 2-methylaniline | 12.4 mmol, 1.33 ml | CC1=C(N)C=CC=C1 | C7H9N
reactant | 1,4-dioxan | 30 ml | O1CCOCC1 | C4H8O2
product | 2-methylphenylamino-8-(4-methoxybenzoyloxymethyl)-quinoline | 3.5 g, 90% | CC1=NC2=C(C=CC=C2C=C1NC1=CC=CC=C1)COC(C1=CC=C(C=C1)OC)=O | C25H22N2O3
